* gnetlist -g spice-sdb -o i-decoder-001.sch.cir i-decoder-001.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from invertercir vvvvvvvv
*******************************
* Begin .SUBCKT model         *
* spice-sdb ver 4.28.2007     *
*******************************
.SUBCKT inverter 3 5 4 1 
*vvvvvvvv  Included SPICE model from ./model/nmos.model vvvvvvvv
.model CMOSN NMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U   
+  TPG=1 VTO=0.7860 DELTA=6.9670E-01 LD=1.6470E-07 KP=9.6379E-05
+  UO=591.7 THETA=8.1220E-02 RSH=8.5450E+01 GAMMA=0.5863
+  NSUB=2.7470E+16 NFS=1.98E+12 VMAX=1.7330E+05 ETA=4.3680E-02
+  KAPPA=1.3960E-01 CGDO=4.0241E-10 CGSO=4.0241E-10
+  CGBO=3.6144E-10 CJ=3.8541E-04 MJ=1.1854 CJSW=1.3940E-10
+  MJSW=0.125195 PB=0.800000)
*^^^^^^^^  End of included SPICE model from ./model/nmos.model ^^^^^^^^
*
*vvvvvvvv  Included SPICE model from ./model/pmos.model vvvvvvvv
.model CMOSP PMOS(LEVEL=3 PHI=0.600000 TOX=2.1200E-08 XJ=0.200000U 
+  TPG=-1 VTO=-0.9056 DELTA=1.5200E+00 LD=2.2000E-08 KP=2.9352E-05
+  UO=180.2 THETA=1.2480E-01 RSH=1.0470E+02 GAMMA=0.4863
+  NSUB=1.8900E+16 NFS=3.46E+12 VMAX=3.7320E+05 ETA=1.6410E-01
+  KAPPA=9.6940E+00 CGDO=5.3752E-11 CGSO=5.3752E-11
+  CGBO=3.3650E-10 CJ=4.8447E-04 MJ=0.5027 CJSW=1.6457E-10
+  MJSW=0.217168 PB=0.850000)
*^^^^^^^^  End of included SPICE model from ./model/pmos.model ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
MQ1 2 1 4 3 CMOSN 
MQ2 5 1 2 3 CMOSP 
.ends inverter
*******************************
*^^^^^^^^  End of included SPICE model from invertercir ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.INCLUDE simul.cmd
V1 2 0 DC 5V
X1 vout 2 0 1 inverter
R2 0 vout 50  
V2 1 0 pulse 0 1 10n 10n 100n 1u 2u
.end
